US07795262B2
Step 1. Preparation of 1,2,3,4-tetrahydro-isoquinoline-7-carboxylic acid methylamide
1,2,3,4-Tetrahydro-isoquinoline-7-carboxylic acid methyl ester hydrochloride (113 mg, 0.5 mmol) is dissolved in aqueous methylamine (40%, 5.0 ml)) and heated at 100° C. overnight. Upon cooling to rt, the reaction mixture is evaporated to dryness under reduced pressure. The residue is taken up in water (1.0 ml), and treated with sodium hydroxide solution (1.0 N, 1.0 ml). The mixture is extracted with DCM (10 ml×3). The combined organic phase is dried over sodium sulfate, and concentrated to give the title compound. MS (+VE) m/z 191.1 (M++1).

reactant | 1,2,3,4-Tetrahydro-isoquinoline-7-carboxylic acid methyl ester hydrochloride | 0.5 mmol, 113 mg | Cl.COC(=O)C1=CC=C2CCNCC2=C1
reactant | methylamine | 5.0 ml | CN | CH5N
product | 1,2,3,4-tetrahydro-isoquinoline-7-carboxylic acid methylamide | CNC(=O)C1=CC=C2CCNCC2=C1 | C11H14N2O
